US08729112B2
3-chloro-4-(fluoromethyl)-4-methyloxazolidin-2-one
A solution of 4-(fluoromethyl)-4-methyloxazolidin-2-one (245 mg, 1.82 mmol) in MeOH (5 ml) was cooled to 0° C. and tert-butylhypochlorite (251 mg, 2.3 mmol) was added dropwise. The solution was stirred for 2 h, concentrated in vacuo, and the residue purified by flash chromatography (0% to 10% MeOH in DCM) to afford the title compound as a white solid (303 mg, 100%). 1H NMR (CDCl3, 400 MHz) δ 1.38 (d, J=2.4 Hz, 3H), 4.22 (dd, J=1.2, 8.8 Hz), 1H), 4.24 (d, J=11.2 Hz, 0.5H), 4.35 (d, J=10.4 Hz, 0.5H), 4.53 (d, J=10.4 Hz, 0.5H), 4.54 (dd, J=0.8, 8.8 Hz, 1H), 4.64 (d, J=10.4 Hz, 0.5H). 19F NMR (CDCl3, 376 MHz) δ −228.4 (t, J=84 Hz). 13C NMR (CDCl3, 100 MHz) δ 17.7 (d, J=3.7 Hz), 63.5 (d, J=18 Hz), 70.7 (d, J=4 Hz), 82 (d, J=179 Hz), 155.8 (s). LRMS (ESI/APCI): 168 [M+H]+, 209 [M+H+CH3CN]+.

reactant | 4-(fluoromethyl)-4-methyloxazolidin-2-one | 1.82 mmol, 245 mg | FCC1(NC(OC1)=O)C | C5H8FNO2
reactant | tert-butylhypochlorite | 2.3 mmol, 251 mg | C(C)(C)(C)OCl | C4H9ClO
solvent | MeOH | 5 ml | CO | CH4O
product | 3-chloro-4-(fluoromethyl)-4-methyloxazolidin-2-one | 303 mg, 100% | ClN1C(OCC1(C)CF)=O | C5H7ClFNO2
